US07872133B2
N-[3-(trifluoromethyl)phenyl]-1,3,4,9-tetrahydro-2H-β-carboline-2-carboxamide
A solution of 2,3,4,9-tetrahydro-1H-β-carboline (172 mg) in dimethylformamide (5 mL) was added by a solution of 1-isocyanato-3-(trifluoromethyl)benzene (173 mg) in dichloromethane (5 mL) and stirred overnight at the room temperature. The mixture was concentrated under reduced pressure and the residue was purified by column chromatography on silica gel (hexane:ethyl acetate=6:1) to give the title compound (205 mg) having the following physical data.

reactant | 2,3,4,9-tetrahydro-1H-β-carboline | 172 mg | C1NCCC=2C3=CC=CC=C3NC12 | C11H12N2
reactant | 1-isocyanato-3-(trifluoromethyl)benzene | 173 mg | N(=C=O)C1=CC(=CC=C1)C(F)(F)F | C8H4F3NO
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | N-[3-(trifluoromethyl)phenyl]-1,3,4,9-tetrahydro-2H-β-carboline-2-carboxamide | 205 mg | FC(C=1C=C(C=CC1)NC(=O)N1CC=2NC3=CC=CC=C3C2CC1)(F)F | C19H16F3N3O
